US05932756
(0.0032 g, 0.007 mmol) of the platinum complex, prepared as in Example 1, was stirred with 4-hydroxybenzyl cyanide (1.0 g, 7.5 mmol) and 5 ml (0.28 mol) of water and 5 ml ethanol and the mixture heated under reflux for 18 hours. After cooling the liquids were removed using a rotary evaporator to give 4-hydroxy phenylacetamide (1.116 g) corresponding to 98% yield.

reactant | 4-hydroxybenzyl cyanide | 7.5 mmol, 1.0 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | water | 0.28 mol, 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-hydroxy phenylacetamide | 1.116 g, 98% yield | OC1=CC=C(C=C1)CC(=O)N | C8H9NO2
